US09212182B2
A flask was charged with (5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)phenyl)methanol (6.56 g, 14.55 mmol) and DCM (72.8 ml). The solution was cooled to 0° C. To the solution was added Dess-Martin Periodinane (8.02 g, 18.92 mmol) as a solid in a single portion to give a red solution. The cold bath was removed and the solution was allowed to warm to rt. After 30 min, the solution was partitioned between DCM (100 mL) and sat. aq. sodium thiosulfite (30 mL) and 1 N NaOH (20 mL). The layers were separated and the aqueous layer was extracted with DCM (2×50 mL). The combined organic layers were dried (Na2SO4) and filtered through a plug of silica. The red mother liquor was concentrated, then taken up in minimal DCM (10 mL). To the solution was added IPA (200 mL) and a brown/yellow solid precipitated, which was collected by vacuum filtration to yield 5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)benzaldehyde (2.339 g, 5.21 mmol, 35.8% yield) as brown/yellow solid. (ESI) 446.1 (M−H)−.

reactant | (5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)phenyl)methanol | 14.55 mmol, 6.56 g | BrC=1C=CC(=C(C1)CO)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F | C21H18BrClFNO2
reactant | Dess-Martin Periodinane | 18.92 mmol, 8.02 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 72.8 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)benzaldehyde | 5.21 mmol, 2.339 g, 35.8% yield | BrC=1C=CC(=C(C=O)C1)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F | C21H16BrClFNO2
